US05382686
A steel autoclave was filled with 94 g (1 mole) of phenol and 40 g of sodium hydroxide pellets (1 mole), furthermore after sealing the autoclave 150 g of ammonia were injected. At 70° C., 157.5 g (1 mole) of p-nitrochlorobenzene were pumped into the autoclave as a liquid over a period of one hour; the mixture was stirred for a further 10 hours. After the pressure vessel was let town and the product obtained was washed with water, the 4-nitrodiphenyl ether was isolated at a more than 99% purity (by gas chromatography).

reactant | phenol | 1 mole, 94 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | ammonia | 150 g | N | H3N
reactant | p-nitrochlorobenzene | 1 mole, 157.5 g | [N+](=O)([O-])C1=CC=C(C=C1)Cl | C6H4ClNO2
product | 4-nitrodiphenyl ether | C1=CC=C(C=C1)OC2=CC=C(C=C2)[N+](=O)[O-] | C12H9NO3
